US06500946B1
Production of 6-chloro-9-[2-O-(sulfurylimidazolyl)-3-deoxy-5-O-(triphenylmethyl)-β-D-erythro-pentofuranosyl]-9H-purine
604 mg (1.18 mmols) of 6-chloro-9-[3-deoxy-5-O-(triphenylmethyl)-β-D-erythro-pentofuranosyl]-9H-purine was dissolved in 11.8 ml of methylene chloride, to which was added 486 mg (7.07 mmols) of imidazole. This reaction mixture was cooled to −35° C., to which was added 0.15 ml (1.77 mmols) of sulfuryl chloride, and stirred for 30 minutes. Then, after having been restored to be at room temperature, this was stirred overnight. To the reaction mixture, water was added to stop the reaction. Then, the mixture was separated into layers, and the aqueous layer was washed with dichloromethane. The organic layers were combined together, dried with anhydrous sodium sulfate, and filtered. The solvent was evaporated from the resulting filtrate. The residue was purified through silica gel column (silica 40 g), using 33 to 50% hexane/ethyl acetate, to obtain 570 mg (yield 75.0%) of the intended product, which was colorless oil.

reactant | 6-chloro-9-[3-deoxy-5-O-(triphenylmethyl)-β-D-erythro-pentofuranosyl]-9H-purine | 1.18 mmols, 604 mg | ClC1=C2N=CN(C2=NC=N1)[C@H]1[C@H](O)C[C@H](O1)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C29H25ClN4O3
reactant | imidazole | 7.07 mmols, 486 mg | N1C=NC=C1 | C3H4N2
reactant | sulfuryl chloride | 1.77 mmols, 0.15 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | water | O | H2O
solvent | methylene chloride | 11.8 ml | C(Cl)Cl | CH2Cl2
product | 6-chloro-9-[2-O-(sulfurylimidazolyl)-3-deoxy-5-O-(triphenylmethyl)-β-D-erythro-pentofuranosyl]-9H-purine | 570 mg, yield 75.0% | ClC1=C2N=CN(C2=NC=N1)[C@H]1[C@H](OC=2N=CC(N2)=S(=O)=O)C[C@H](O1)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C32H25ClN6O5S
